US08030334B2
A flask containing 1-(tert-butoxycarbonyl)-1H-indol-2-ylboronic acid (2 g, 7.66 mmol), 3-bromo-5-iodopyridine (1.45 g, 5.11 mmol), 2M K2CO3 in water (5.11 mL, 10.21 mmol), PS—Pd(PPh3)4 (2.84 g, 0.255 mmol) is flushed with N2 and dioxane (50 mL) is added. The mixture is stirred at 60° C. for 3 h, whereupon another portion of 3-bromo-5-iodopyridine (300 mg, 1.06 mmol) is added. The mixture is stirred at 60° C. overnight. The mixture is cooled to room temperature and silica gel (20 g) is added. The suspension is concentrated in vacuo and the residue is placed under high vacuum at 60° C. over the weekend. The mixture is purified by silica chromatography eluting with a 1:9 to 7:3 EtOAc-heptane gradient to give 2-(5-bromopyridin-3-yl)-1H-indole. MS (ESI) m/z 273.0, 275.1 (M+H)+.

reactant | 1-(tert-butoxycarbonyl)-1H-indol-2-ylboronic acid | 7.66 mmol, 2 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | 3-bromo-5-iodopyridine | 5.11 mmol, 1.45 g | BrC=1C=NC=C(C1)I | C5H3BrIN
reactant | K2CO3 | 2M | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10.21 mmol, 5.11 mL | O | H2O
reactant | 3-bromo-5-iodopyridine | 1.06 mmol, 300 mg | BrC=1C=NC=C(C1)I | C5H3BrIN
catalyst | Pd(PPh3)4 | 0.255 mmol, 2.84 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-bromopyridin-3-yl)-1H-indole | BrC=1C=C(C=NC1)C=1NC2=CC=CC=C2C1 | C13H9BrN2
